US09102671B2
To a solution of (R)-tert-butyl-4,4-difluoro-2-(3-fluorophenyl)pyrrolidine-1-carboxylate (I-8) (0.9 g, 3.0 mmol) in DCM (20 mL) was added TFA (2 mL, 27 mmol) and stirred at room temperature for 2 hours. The reaction was cooled to 0° C. and aqueous NaHCO3 was added while rapidly stirring. The organic phase was separated and washed with aqueous NaHCO3, dried over anhydrous sodium sulfate, filtered and reduced to dryness to yield (R)-4,4-difluoro-2-(3-fluorophenyl)pyrrolidine (I-9) as a light yellow oil that crystallizes on standing. 1H NMR (400 MHz, CD3OD) δ 7.40 (q, J=8.0 Hz, 1 H), 7.23 (d, J=8.8 Hz, 1 H), 7.20 (d, J=10.0 Hz, 1 H), 7.05 (dt, J=8.8, 2.4 Hz, 1 H), 4.41 (dd, J=10.4, 7.2 Hz, 1 H), 3.48 (q, J=12.0 Hz, 1 H), 3.30 (q, J=15.2 Hz, 1 H), 2.74-2.63 (m, 1 H), 2.29-2.14 (m, 1 H). MS m/z 202.1 (M+1)+.

reactant | (R)-tert-butyl-4,4-difluoro-2-(3-fluorophenyl)pyrrolidine-1-carboxylate | 3.0 mmol, 0.9 g | C(C)(C)(C)OC(=O)N1[C@H](CC(C1)(F)F)C1=CC(=CC=C1)F | C15H18F3NO2
reactant | TFA | 27 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-4,4-difluoro-2-(3-fluorophenyl)pyrrolidine | FC1(C[C@@H](NC1)C1=CC(=CC=C1)F)F | C10H10F3N
